US05565565
9-(2-Acetoxyethoxy)methyl-N2 -acetylguanine (1.3 gm, 4.2 mmol) was dissolved in 10 ml of methanol and 10 ml of concentrated ammonium hydroxide, and the solution was heated at 50° C. for a period of 4 hours. The solvents were evaporated off, yielding a solid. The solid was recrystallized from methanol, yielding 0.85 gm of 9-(2-hydroxyethoxy)methylguanine (90% yield). Characteristic analytical data are as follows: 1H NMR(DMSO-d6), δ3.16 (4H, singlet, --OCH2CH2O--), 4.6 (1H, br singlet, --OH), 5.26 (2H, singlet, --NCH2 --), 6.45 (2H, br singlet, --NH2), 7.76 (1H, singlet, --N=CH--N--).

reactant | 9-(2-Acetoxyethoxy)methyl-N2 -acetylguanine | 4.2 mmol, 1.3 gm | C(C)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)NC(C)=O | C12H15N5O5
solvent | methanol | 10 ml | CO | CH4O
solvent | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | 9-(2-hydroxyethoxy)methylguanine | 0.85 gm, 90% yield | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
